.subckt mcp6021 1 2 3 4 5
*               | | | | |
*               | | | | output
*               | | | negative supply
*               | | positive supply
*               | inverting input
*               non-inverting input
*
* macromodel for the mcp6021/2/3/4 op amp family:
* mcp6021 (single)
* mcp6022 (dual)
* mcp6023 (single w/ cs; chip select is not modeled)
* mcp6024 (quad)
* revision history:
* rev a: 10-02-01 created keb
* recommendations:
* use pspice (or spice 2g6; other simulators may require translation)
* for a quick, effective design, use a combination of: data sheet
* specs, bench testing, and simulations with this macromodel
* for high impedance circuits, set gmin=100f in the .options
* statement
* supported:
* typical performance at room temperature (25 degrees c)
* dc, ac, transient, and noise analyses.
* most specs, including: offsets, dc psrr, dc cmrr, input impedance,
* open loop gain, voltage ranges, supply current, ... , etc.
*
* not supported:
* chip select (mcp6023)
* variation in specs vs. power supply voltage
* distortion (detailed non-linear behavior)
* temperature analysis
* process variation
* behavior outside normal operating region
*
* input stage
v10 3 10 -0.6
r10 10 11 1.63k
r11 10 12 1.63k
c11 11 12 222f
c12 1 0 6p
be12 1 14 v=v(26) +v(27)
i12 14 0 1.5p
m12 11 14 15 15 nmi l=2u w=75u
c13 14 2 3p
m14 12 2 15 15 nmi l=2u w=75u
i14 2 0 0.5p
c14 2 0 6p
i15 15 4 500u
v16 16 4 0.36
d16 16 15 dl
v13 3 13 -80m
d13 14 13 dl
*
* psrr and cmrr
bg26 0 26 i=-308e-6 + 56e-6 * v(3, 4) Rpar=1 Cpar=100p
bg27 0 27 i=(v(1, 3) + v(2, 4)-10)*24e-6 Rpar=1 Cpar=100p
*
* open loop gain, slew rate
* g30 0 30 poly(1) 12 11 0 1k
bg30 0 30 i=1000 * v(12, 11) Rpar=1 Cpar=100p
d31 30 31 dl
be31 31 0 v=57.2 + 8.33 * v(3, 4)
d32 32 30 dl
be32 0 32 v=74.0 + 8.00 * v(3, 4)
bg33 0 33 i=316 * v(30) Rpar=1 Cpar=100p
c33 33 0 4.58m
bg34 0 34 i= v(33) Rpar=1 Cpar=100p
c34 34 0 159p
*
* output stage
bg40 0 40 i=10 * v(47, 5)
d41 40 41 dl
r41 41 0 1k
d42 42 40 dl
r42 42 0 1k
bg43 3 0 i=500e-6 + 1e-3 * v(41)
bg44 0 4 i=500e-6 -1e-3 * v(42)
d45 47 45 dls
be45 45 0 v=-20e-3 + v(3) -20.4e-3 * v(41)
be46 46 0 v=20e-3 + v(4) -20.4e-3 * v(42)
d46 46 47 dls
bg47 0 47 i=(v(3) +v(4) + 2 * v(34))*8e-3 Rpar=62.5 Cpar=1p
r48 47 5 0.1
c48 5 0 2p
.model nmi nmos af=1 kf=0.1f
.model dl d n=1 is=1f cjo=2f
.model dls d n=10m is=1f
.ends mcp6021
